US04076812
A solution of 138.1 g of 10,11-dibromo-10,11-dihydro-5-(trifluoroacetyl)-5H-dibenz[b,f]azepine in 580 ml of dimethyl formamide is treated at 0°-10° C with 114.5 ml of 1,5-diazabicyclo[5.4.0]undec-5-ene and stirred for 1 hour at the same temperature. The dark solution is then poured into a mixture of water and ice and the resultant suspension is extracted with ethyl acetate. The organic phase is washed with saturated sodium chloride solution, dried over magnesium sulphate and concentrated by evaporation, to yield crude, syrupy 10-bromo-5-(trifluoroacetyl)-5H-dibenz[b,f]azepine which is directly processed further.

reactant | 10,11-dibromo-10,11-dihydro-5-(trifluoroacetyl)-5H-dibenz[b,f]azepine | 138.1 g | BrC1C(C2=C(N(C3=C1C=CC=C3)C(C(F)(F)F)=O)C=CC=C2)Br | C16H10Br2F3NO
reactant | 1,5-diazabicyclo[5.4.0]undec-5-ene | 114.5 ml | N12CCCN=CC2CCCC1 | C9H16N2
reactant | water | O | H2O
solvent | dimethyl formamide | 580 ml | CN(C=O)C | C3H7NO
product | 10-bromo-5-(trifluoroacetyl)-5H-dibenz[b,f]azepine | BrC1=CC2=C(N(C3=C1C=CC=C3)C(C(F)(F)F)=O)C=CC=C2 | C16H9BrF3NO
